* Z:\Users\aviatorblue\Documents\Senior Project\Electrical_Design\transimpedance_amplifier.asc
V1 Vdd 0 5
V2 0 Vss 5
I1 N005 N006 SINE(0.00000005 0.0000001 200)
R1 N004 N002 75k
V3 N003 0 5
R5 N003 N005 12k
C1 0 N004 10n
XU1 0 N001 Vdd 0 N002 LT1007
XU2 0 N004 Vdd 0 Vout LT1007
R2 N001 0 1G
C2 N001 0 100p
C3 N002 N001 10n
R3 N001 N002 10Meg
R4 N004 Vout 20Meg
C4 N001 N006 1µ
.tran 0 1 0.95
.lib LTC.lib
.backanno
.end
