* Z:\Users\aviatorblue\Documents\Senior Project\Electrical_Design\transimpedance_amplifier.asc
V1 Vdd 0 5
V2 0 Vss 5
I1 N006 N007 SINE(0.00000005 0.0000001 200)
R1 N008 N002 40k
V3 N003 0 5
R5 N003 N006 12k
C1 0 N004 10n
XU1 0 N001 Vdd Vss N002 LT1007
XU2 0 N004 Vdd Vss N005 LT1007
R2 N001 0 1G
C2 N001 0 100p
C3 N002 N001 10n
R3 N001 N002 12Meg
R4 N004 N005 20Meg
C4 N001 N007 1µ
C5 N004 N008 60n
D1 N005 N009 1N914
D2 N009 Vout 1N914
R6 Vout 0 10Meg
C6 0 Vss 1µ
C7 Vdd 0 1µ
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 0 1 0.95
* Absolute Min for R1 = 40k before reaching instablity
* Absolute Max for C5 = 100nF before instability
* Assuming minimum signal of 200nA --> 3.3V 1/2 signal
.lib LTC.lib
.backanno
.end
